US08957068B2
To (S)-4-(1-(tert-butoxycarbonylamino)ethyl)-2-fluorobenzoic acid (40.8 mg, 0.144 mmol) was added NMP (0.5 ml), trans-4-aminocyclohexanol (41.5 mg, 0.360 mmol), Hunig's Base (0.101 ml, 0.576 mmol) and HATU (110 mg, 0.288 mmol) The reaction was stirred at room temperature for 6 hours, followed by LCMS. To the reaction was added 0.5 ml of NMP, filtered, purified by prep LC and lyophilized to give 33 mg of tert-butyl (S)-1-(3-fluoro-4-(trans-4-hydroxycyclohexylcarbamoyl)phenyl)ethylcarbamate as the TFA Salt. LCMS m/z 381.1 (M+H)+, Rt 0.70 min.

reactant | (S)-4-(1-(tert-butoxycarbonylamino)ethyl)-2-fluorobenzoic acid | 0.144 mmol, 40.8 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C1=CC(=C(C(=O)O)C=C1)F | C14H18FNO4
reactant | trans-4-aminocyclohexanol | 0.360 mmol, 41.5 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | Hunig's Base | 0.576 mmol, 0.101 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.288 mmol, 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
product | tert-butyl (S)-1-(3-fluoro-4-(trans-4-hydroxycyclohexylcarbamoyl)phenyl)ethylcarbamate | 33 mg | FC=1C=C(C=CC1C(N[C@@H]1CC[C@H](CC1)O)=O)[C@H](C)NC(OC(C)(C)C)=O | C20H29FN2O4
